US07723330B2
Step F: Preparation of N-(4-(1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenylcarbamothioyl)-2-phenylacetamide:
A stirred mixture of 1-(4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-3-(2-phenylacetyl)thiourea (0.630 g, 1.16 mmol) and 2,2,2-trifluoroacetic acid (TFA) (1.79 mL, 23.3 mmol) was heated to 65° C. for 3 hours under N2. The mixture was concentrated in vacuo using toluene (3×5 mL) to azeotrope residual TFA. The residue was partitioned between saturated aqueous NaHCO3 (10 mL) and EtOAc (10 mL). The phases were separated, and the organic phase washed with brine (10 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The residue was partially purified by preparative TLC eluting with EtOAc. The crude was then triturated with DCM (5 mL) and chilled to −10° C. to obtain the product as a white powder. The solid was suspended in abs EtOH (2×2 mL) and concentrated in vacuo to remove residual DCM. The white powder (61 mg, 12%) was then dried at 60° C. under high vacuum for 1 hour. LRMS (APCI+): 100% purity, 220 nm, m/z 422 (M+1); 1H NMR (400 MHz, DMSO-d6) δ 13.79 (s, 1H), 12.49 (s, 1H), 11.84 (s, 1H), 8.39 (d, J=5.5 Hz, 1H), 7.99 (d, J=12.1 Hz, 1H), 7.79 (s, 1H), 7.54 (m, 2H), 7.35 (m, 4H), 7.29 (m, 1H), 6.51 (d, J=5.5 Hz, 1H), 3.84 (s, 2H); 19F NMR (376 MHz, DMSO-d6) δ −129.2 (m).

reactant | 1-(4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-3-(2-phenylacetyl)thiourea | 1.16 mmol, 0.630 g | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=S)NC(CC3=CC=CC=C3)=O)F)C=C1 | C29H24FN5O3S
reactant | 2,2,2-trifluoroacetic acid | 23.3 mmol, 1.79 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-(4-(1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenylcarbamothioyl)-2-phenylacetamide | N1N=CC=2C1=NC=CC2OC2=C(C=C(C=C2)NC(=S)NC(CC2=CC=CC=C2)=O)F | C21H16FN5O2S
